US05004646
6-Hydroxyhexylmethacrylate was prepared using the same method as in the preparation of 10-hydroxydecylmethacrylate. 1,6-hexanediol was used instead of 1,10-decanediol. The same molar quantities of reactants were used. 11.5 g of product (62% yield) were collected.

reactant | 10-hydroxydecylmethacrylate | OCCCCCCCCCCOC(C(=C)C)=O | C14H26O3
reactant | 1,6-hexanediol | C(CCCCCO)O | C6H14O2
product | 6-Hydroxyhexylmethacrylate | OCCCCCCOC(C(=C)C)=O | C10H18O3
